US08748596B2
(6-Chloro-pyridin-3-yl)-[1,4]diazepan-1-yl-methanone
A solution of homopiperazine (12.5 g, 125 mmol) and ethyl-6-chloronicotinate (9.28 g, 50 mmol) in THF (150 mL) was cooled to 0° C. and LiOEt (1 M in THF, 50 mL, 50 mmol) was then added over 20 minutes. The resulting mixture was stirred at 0° C. for 2 h, then warmed to 20° C. and held at this temperature for 17 h. The resulting mixture was then treated with 162 mL of an aqueous solution containing 1.53 g of NaOAc and 8.2 mL of acetic acid. The resulting layers were separated and the organic was diluted with hexane (50 mL) and extracted again with the same aqueous solution as utilized above. The aqueous pH was then increased to 10 through addition of 50% NaOH(aq) (15 mL). After extraction with dichloromethane (3×250 mL) the combined organics were dried over sodium sulfate, filtered, and concentrated to yield the title compound as an oil.

reactant | homopiperazine | 125 mmol, 12.5 g | N1CCNCCC1 | C5H12N2
reactant | ethyl-6-chloronicotinate | 50 mmol, 9.28 g | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | LiOEt | 50 mmol, 1 M, 50 mL | O([Li])CC
reactant | NaOAc | 1.53 g | CC(=O)[O-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 8.2 mL | C(C)(=O)O | C2H4O2
product | (6-Chloro-pyridin-3-yl)-[1,4]diazepan-1-yl-methanone | ClC1=CC=C(C=N1)C(=O)N1CCNCCC1 | C11H14ClN3O
